US08383827B2
A 25 mL flask was charged with 5-(6-Chloro-1-methyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-pyridine-3-carbaldehyde (91 mg, 0.335 mmol), ethane sulfonamide (73.1 mg, 0.670 mmol) and toluene (5 mL). Titanium(IV) isopropoxide (0.147 mL, 0.502 mmol) was added dropwise. The mixture was stirred at 120° C. overnight. The mixture was concentrated in vacuo. The residue was taken up in DCM (5 mL) and MeOH (5 mL) and sodium borohydride (50.7 mg, 1.340 mmol) was added at 0° C. The mixture was stirred at 0° C. for 30 min. Water (1 mL) was added and the mixture was stirred for 5 min, then concentrated in vacuo. DMF (5 mL) was added and the suspension was filtered. The filtrate was purified by Xbridge RP 18 eluting with a 5 to 95 ACN-water gradient to afford ethanesulfonic acid [5-(6-chloro-1-methyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-pyridin-3-ylmethyl]-amide. ESI-MS: m/z 365.2 (M+H)+1H NMR (400 MHz, MeOD) δ ppm 1.38 (t, J=7.3 Hz, 2H), 3.23 (q, J=7.4 Hz, 2H), 4.08-4.17 (m, 2H), 4.59 (dd, J=8.8, 7.3 Hz, 2H), 7.10 (d, J=8.3 Hz, 1H), 7.53 (dd, J=8.6, 2.3 Hz, 1H), 7.63 (d, J=2.3 Hz, 1H), 7.92 (t, J=2.1 Hz, 1H), 8.40 (d, J=2.5 Hz, 1H), 8.56 (d, J=2.0 Hz, 2H)

reactant | 5-(6-Chloro-1-methyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-pyridine-3-carbaldehyde | 0.335 mmol, 91 mg | ClC1=CC=C2C(=N1)N(C(=C2)C=2C=C(C=NC2)C=O)C | C14H10ClN3O
reactant | ethane sulfonamide | 0.670 mmol, 73.1 mg | C(C)S(=O)(=O)N | C2H7NO2S
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium borohydride | 1.340 mmol, 50.7 mg | [BH4-].[Na+]
catalyst | Titanium(IV) isopropoxide | 0.502 mmol, 0.147 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | Water | 1 mL | O | H2O
solvent | MeOH | 5 mL | CO | CH4O
product | ethanesulfonic acid [5-(6-chloro-1-methyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-pyridin-3-ylmethyl]-amide | ClC1=CC=C2C(=N1)N(C(=C2)C=2C=C(C=NC2)CNS(=O)(=O)CC)C | C16H17ClN4O2S
